US09233985B2
While under nitrogen, a stirred mixture of tert-butyl 3-allyl-4-oxopyrrolidine-1-carboxylate (600 mg, 2.66 mmol), ammonium trifluoroacetate (698 mg, 5.33 mmol) and 2-nitrophenyl isocyanide (690 mg, 4.6 mmol) in 2,2,2-trifluoroethanol (2.7 mL) was placed in a 60° C. oil bath and stirred overnight. After cooling to room temperature, the mixture was diluted with ethyl acetate (40 mL), washed with water (3×20 mL) and the combined aqueous phase was re-extracted with ethyl acetate (20 mL). The combined organic phase was washed with saturated aqueous sodium chloride (20 mL), dried over Na2SO4 and concentrated under reduced pressure. Purification by silica gel chromatography (90 g column, 0-5% ethyl acetate in methylene chloride) gave tert-butyl 4-allyl-3-[(2-nitrophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]-pyrrolidine-1-carboxylate (665 mg, 51%, 3:2 mixture of diastereomers) as an amber gum. LC-MS ESI+ MS found for C21H25F3N4O6 m/z 509.0 (M+Na). LC-MS ESI− MS found for C21H25F3N4O6 m/z 485.1 (M−H).

reactant | tert-butyl 3-allyl-4-oxopyrrolidine-1-carboxylate | 2.66 mmol, 600 mg | C(C=C)C1CN(CC1=O)C(=O)OC(C)(C)C | C12H19NO3
reactant | ammonium trifluoroacetate | 5.33 mmol, 698 mg | FC(C(=O)[O-])(F)F.[NH4+]
reactant | 2-nitrophenyl isocyanide | 4.6 mmol, 690 mg | [N+](=O)([O-])C1=C(C=CC=C1)[N+]#[C-] | C7H4N2O2
reactant | 2,2,2-trifluoroethanol | 2.7 mL | FC(CO)(F)F | C2H3F3O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-allyl-3-[(2-nitrophenyl)carbamoyl]-3-[(trifluoroacetyl)amino]-pyrrolidine-1-carboxylate | 665 mg, 51% | C(C=C)C1C(CN(C1)C(=O)OC(C)(C)C)(NC(C(F)(F)F)=O)C(NC1=C(C=CC=C1)[N+](=O)[O-])=O | C21H25F3N4O6
